US08389555B2
N-{4-[Propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amino]-butyl}-benzamide (1)
A solution of 395 mg (2 mmol) propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amine and 478 mg (2.5 mmol) N-(4-oxo-butyl)-benzamide in 1,2-dichloroethane (20 mL) is stirred for about 30 minutes. Then 0.75 g (3 mmol) of sodium triacetoxyborohydride is added and the mixture is stirred overnight. After hydrolysation with 30 mL of 1N aqueous NaOH solution the organic phase is separated, dried over sodium sulfate and concentrated in vacuum. The crude product obtained is purified via column chromatography on silica gel eluting with dichloromethane/methanol (98:2). The methanol used is saturated with NH3-gas. Evaporation of the solvent yields 1.88 mmol (700 mg) of a colorless viscous oil. The salt of maleic acid is crystallized from acetonitrile/diethylether.

reactant | propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amine | 2 mmol, 395 mg | C(CC)NC1CC2=C(N=CS2)CC1 | C10H16N2S
reactant | N-(4-oxo-butyl)-benzamide | 2.5 mmol, 478 mg | O=CCCCNC(C1=CC=CC=C1)=O | C11H13NO2
reactant | sodium triacetoxyborohydride | 3 mmol, 0.75 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | N-{4-[Propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amino]-butyl}-benzamide | 1.88 mmol, 700 mg, Yield: 68% | C(CC)N(CCCCNC(C1=CC=CC=C1)=O)C1CC2=C(N=CS2)CC1 | C21H29N3OS
